US04824996
N-[3-(dimethylamino)propyl]pentadecanamide
1.37 gm (6 meq) of myristic acid and 972 mg (6 meq) of carbonyl diimidazole are combined in a minimum volume of tetrahydrofuran and reacted at room temperature for 1 hour. 0.8 Ml (6 meq+10%) of 3-dimethylaminopropylamine is added and reacted overnight at room temperature. The reaction mixture is evaporated under reduced pressure, dried in vacuo and the desired product purified by silica gel chromatography in the system CH2Cl2 :CH3OH:NH4OH (65:25:4). Fractions 53-65 are combined, evaporated and dried in vacuo to yield 325 mg of title compound having a m.p. of 46°-48° C. after recrystallization from acetone/water.

reactant | myristic acid | 1.37 gm, 6 meq | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | carbonyl diimidazole | 972 mg, 6 meq | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-dimethylaminopropylamine | 6 meq | CN(CCCN)C | C5H14N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-(dimethylamino)propyl]pentadecanamide | 325 mg | CN(CCCNC(CCCCCCCCCCCCCC)=O)C | C20H42N2O
